US07608633B2
A. 1-Oxiranylmethylindole-5-carbonitrile
2.07 g (42 mmol) pulverized, 88% potassium hydroxide, 3.0 g (0.021 mol) indole-5-carbonitrile and 0.68 g (2 mmol) tetrabutylammoniumbromide are jointly weighed out in the given order and mixed with 9.9 ml (126 mmol) epichlorohydrine with stirring. Stirring is continued overnight. Following hydrolysis and three extractions using ethyl acetate, the combined organic phases are washed three times with water. Drying of the organic phase using sodium sulfate and concentration of the solvent on the rotary evaporator leaves a solid which is purified on silica gel by column chromatography (flow agent: hexane/ethyl acetate 7:3).

reactant | potassium hydroxide | [OH-].[K+]
reactant | indole-5-carbonitrile | 0.021 mol, 3.0 g | N1C=CC2=CC(=CC=C12)C#N | C9H6N2
reactant | epichlorohydrine | 126 mmol, 9.9 ml | C(Cl)C1CO1 | C3H5ClO
catalyst | tetrabutylammoniumbromide | 2 mmol, 0.68 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Oxiranylmethylindole-5-carbonitrile | O1C(C1)CN1C=CC2=CC(=CC=C12)C#N | C12H10N2O
